US08026236B2
C: 4-(2-(tetrahydro-2H-pyran-2-yloxy)-ethoxy)-3-(trifluoromethyl)-phenylboronic acid
BuLi (2.5M, 6 ml) was added dropwise to a solution of 2-(2-(4-bromo-2-(trifluoromethyl)phenoxy)ethoxy)tetrahydro-2H-pyran (5 g) in THF (50 ml) at −78° C. under N2 during 3 minutes. After stirring at −78° C. for another 10 minutes, triisopropyl borate (3.8 ml) was then added dropwise during 2 minutes at −78° C. The mixture was stirred at −78° C. for further 30 minutes, then slowly warmed up to room temperature and stirred at room temperature for 30 minutes. The mixture was then quenched with acetic acid (10% in water, 20 ml), extracted with EtOAc (300 ml), washed with water (200 ml×3), dried over sodium sulphate, solvent removed under reduced pressure, the residue was taken in to toluene and then solvent removed under reduced pressure to take out traces of acetic acid (repeat 3 times) (4.5 g).

reactant | BuLi | 2.5M, 6 ml | [Li]CCCC
reactant | 2-(2-(4-bromo-2-(trifluoromethyl)phenoxy)ethoxy)tetrahydro-2H-pyran | 5 g | BrC1=CC(=C(OCCOC2OCCCC2)C=C1)C(F)(F)F | C14H16BrF3O3
reactant | triisopropyl borate | 3.8 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(2-(tetrahydro-2H-pyran-2-yloxy)-ethoxy)-3-(trifluoromethyl)-phenylboronic acid | O1C(CCCC1)OCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C14H18BF3O5
